US04824834
To a mixture of methyl 3-hyroxy-4-phenylthiobenzoate (49.11 g), potassium carbonate (27.33 g) and acetone (627 ml) is added dimethyl sulfate (17.85 ml), and the mixture is refluxed with stirring for 6 hours. The reaction mixture is cooled, and the precipitate is separated by filtration and washed with acetone. The filtrate and washings are combined and concentrated under reduced pressure to give methyl 3-methoxy-4-phenylthiobenzoate.

reactant | methyl 3-hyroxy-4-phenylthiobenzoate | 49.11 g | OC=1C=C(C(=S)OC)C=CC1C1=CC=CC=C1 | C14H12O2S
reactant | potassium carbonate | 27.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 17.85 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 627 ml | CC(=O)C | C3H6O
product | methyl 3-methoxy-4-phenylthiobenzoate | COC=1C=C(C(=S)OC)C=CC1C1=CC=CC=C1 | C15H14O2S
